US09260441B2
Step C: (E)-4,4-Difluoro-1-[(3R)-3-[(4-methyl-2-pyridyl)amino]-1-piperidyl]pent-2-en-1-one
(E)-4,4-Difluoropent-2-enoic acid (22 mg, 0.16 mmol) was dissolved in dichloromethane (1 ml), oxalyl chloride (14 μl, 0.16 mol) and one drop of DMF were added and the resulting solution was stirred at room temperature for 15 minutes. This solution was added to a solution of 4-methyl-N-[(3R)-3-piperidyl]pyridin-2-amine dihydrochloride (23 mg, 0.087 mmol) in DCM (2 ml). Ethyl-N,N-diisopropylamine (DIPEA, 70 μl, 0.4 mmol) was added and the resulting mixture was stirred at room temperature overnight. The mixture was concentrated under reduced pressure and the resulting residue was purified by preparative HPLC (Waters X-bridge, gradient of water containing 0.1% NH3 and acetonitrile) to yield 13 mg of a solid (0.042 mmol, 48%).

reactant | (E)-4,4-Difluoropent-2-enoic acid | 0.16 mmol, 22 mg | FC(/C=C/C(=O)O)(C)F | C5H6F2O2
reactant | oxalyl chloride | 0.16 mol, 14 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-methyl-N-[(3R)-3-piperidyl]pyridin-2-amine dihydrochloride | 0.087 mmol, 23 mg | Cl.Cl.CC1=CC(=NC=C1)N[C@H]1CNCCC1
reactant | Ethyl-N,N-diisopropylamine | 0.4 mmol, 70 μl | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | (E)-4,4-Difluoro-1-[(3R)-3-[(4-methyl-2-pyridyl)amino]-1-piperidyl]pent-2-en-1-one | 0.042 mmol, 13 mg, 48% | FC(/C=C/C(=O)N1C[C@@H](CCC1)NC1=NC=CC(=C1)C)(C)F | C16H21F2N3O
